US04707468
2.493 g of Boc-D-Leu-OH.H2O was dissolved in 10 ml of dimethylformamide. The solution was cooled to -20° C. 1.1 ml of N-methylmorpholine and 0.96 ml of ethyl chlorocarbonate were added to the solution. After 5 min, a solution of 4.414 g of CF3COOH.H-Arg(Tos)-NH2 and 1.65 ml of N-methylmorpholine in 20 ml of dimethylformamide was added thereto and the mixture was stirred at about -5° C. for 2 h. After concentration, the residue was dissolved in ethyl acetate and washed with NaHCO3 and water successively. After concentration, ether was added thereto to solidify the product. Thus, 4.96 g of Boc-D-Leu-Arg(Tos)-NH2 was obtained.

reactant | Boc-D-Leu-OH.H2O | 2.493 g | N([C@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C.O
reactant | N-methylmorpholine | 1.1 ml | CN1CCOCC1 | C5H11NO
reactant | ethyl chlorocarbonate | 0.96 ml | C(OCC)(=O)Cl | C3H5ClO2
reactant | CF3COOH | 4.414 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | H-Arg(Tos)-NH2 | N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N | C13H21N5O3S
reactant | N-methylmorpholine | 1.65 ml | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Boc-D-Leu-Arg(Tos)-NH2 | 4.96 g | N([C@H](CC(C)C)C(=O)N[C@@H](CCCNC(NS(=O)(=O)C1=CC=C(C)C=C1)=N)C(=O)N)C(=O)OC(C)(C)C | C24H40N6O6S
